US07612212B2
A hydrogenation vessel containing a solution of (R)-[4-(2-benzyloxy-1-benzyloxymethyl-ethoxy)-phenyl]-tert-butoxycarbonylamino-acetic acid (1.86 g, 3.57 mmol) in methanol (50 mL) was purged with nitrogen and 10% palladium on carbon (100 mg) added. The atmosphere above the methanol solution was exchanged for hydrogen and the reaction mixture stirred vigorously for 30 minutes at ambient temperature. The reaction mixture was filtered through a pad of Celite and concentrated in vacuo to give (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-1-hydroxymethyl-ethoxy)-phenyl]-acetic acid which was of sufficient purity for subsequent use without additional purification (0.88 g, 73%).

reactant | (R)-[4-(2-benzyloxy-1-benzyloxymethyl-ethoxy)-phenyl]-tert-butoxycarbonylamino-acetic acid | 3.57 mmol, 1.86 g | C(C1=CC=CC=C1)OCC(OC1=CC=C(C=C1)[C@H](C(=O)O)NC(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C30H35NO7
solvent | methanol | 50 mL | CO | CH4O
product | (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-1-hydroxymethyl-ethoxy)-phenyl]-acetic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OC(CO)CO | C16H23NO7
